US06281363B1
A solution of 0.178 g of 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-N-(4-benzyloxycarbonyl-2,6-dioxo-1-piperazinyl)valeramide in 5 ml of isopropyl alcohol was hydrogenated for 4 hours in the presence of 0.020 g of 10% palladium-on-carbon. The catalyst was removed by filtration and the solvent was evaporated to give 0.072 g of 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-4-methyl-N-(2,6-dioxo-1-piperazinyl)valeramide in the form of a white solid.

reactant | 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methyl-N-(4-benzyloxycarbonyl-2,6-dioxo-1-piperazinyl)valeramide | 0.178 g | O1C(CCCC1)ONC(=O)[C@@H](CC=CC1=CC=CC=C1)[C@H](C(=O)NN1C(CN(CC1=O)C(=O)OCC1=CC=CC=C1)=O)CC(C)C | C34H42N4O8
solvent | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
catalyst | palladium-on-carbon | 0.020 g | [Pd] | Pd
product | 2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenylbutyl]-4-methyl-N-(2,6-dioxo-1-piperazinyl)valeramide | 0.072 g | O1C(CCCC1)ONC(=O)[C@@H](CCCC1=CC=CC=C1)[C@H](C(=O)NN1C(CNCC1=O)=O)CC(C)C | C26H38N4O6
